US07964607B2
6-[(3S,4S)-4-ethyl-1-(quinoxalin-2-ylcarbonyl)pyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
To a solution of 6-[(3S,4S)-4-ethylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one hydrogen chloride (73 mg) in dicloromethane (2 mL) was added triethylamine (62 mg) and 2-quinoxaloylchloride (40 mg) at 0° C. The reaction mixture was warmed to ambient temperature and stirred for 18 h. The reaction mixture was quenched with saturated sodium bicarbonate, extracted with methylene chloride, dried with magnesium sulfate, filtered and concentrated. Purification via CombiFlash flash chromatography eluting with 24% MeOH/methylene chloride provided the title compound. 400 MHz 1H NMR (CDCl3) δ 12.78-12.62 (m, 1H), 9.41 (d, J=7.5, Hz, 1H), 8.18-8.00 (m, 3H), 7.87-7.73 (m, 2H), 4.84-4.81 (m, 1H), 4.55-3.86 (m, 6H), 3.61-3.53 (m, 2H), 3.38-3.31 (m, 1H), 2.75 (m, 1H), 2.39-2.34 (m, 2H), 1.93-1.89 (m, 2H), 1.58-1.56 (m, 1H), 1.63-1.50 (m, 1H), 1.01-0.88 (m, 3H). MS: (M+H m/z 474.2).

reactant | 6-[(3S,4S)-4-ethylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one hydrogen chloride | 73 mg | Cl.C(C)[C@H]1[C@@H](CNC1)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O
reactant | triethylamine | 62 mg | C(C)N(CC)CC | C6H15N
reactant | 2-quinoxaloylchloride | 40 mg | N1=C(C=NC2=CC=CC=C12)C(=O)Cl | C9H5ClN2O
solvent | dicloromethane | 2 mL | ClCCl | CH2Cl2
product | 6-[(3S,4S)-4-ethyl-1-(quinoxalin-2-ylcarbonyl)pyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C(C)[C@H]1[C@@H](CN(C1)C(=O)C1=NC2=CC=CC=C2N=C1)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C25H27N7O3
